US08198307B2
2-methyl-1-{3-[4-(3-isobutyrylaminophenyl)piperidin-1-yl]propyl}-1H-benzimidazole
100 mg (0.75 mmol) of 2-methyl-1H-benzimidazole was dissolved in 5 ml of N,N-dimethylformamide, and 286 mg (0.75 mmol) of 3-[4-(3-isobutyrylaminophenyl)piperidin-1-yl]propylmethanesulfonate and 310 mg (2.25 mmol) of K2CO3 were added to the resulting solution, followed by treating the mixture at 80° C. for 5 hours. The reaction mixture was combined with 50 ml of water and extracted with ethylacetate (50 ml×2) being washed with water and a sodium hydroxide solution, and then the combined organic layer was dried over anhydrous sodium sulfate, and filtered. The solvent was removed from the filtrate under a reduced pressure, and the resulting residue was refined by silica gel column chromatography (5% MeOH/CH2Cl2) to obtain 159 mg (yield 51%) of the title compound.

reactant | 2-methyl-1H-benzimidazole | 0.75 mmol, 100 mg | CC1=NC2=C(N1)C=CC=C2 | C8H8N2
reactant | 3-[4-(3-isobutyrylaminophenyl)piperidin-1-yl]propylmethanesulfonate | 0.75 mmol, 286 mg | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCCS(=O)(=O)[O-]
reactant | K2CO3 | 2.25 mmol, 310 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-methyl-1-{3-[4-(3-isobutyrylaminophenyl)piperidin-1-yl]propyl}-1H-benzimidazole | 159 mg, yield 51% | CC1=NC2=C(N1CCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C=CC=C2 | C26H34N4O
